US08293753B2
Step 2.1: 3,3,3-Trifluoro-2,2-dimethyl-propionyl chloride
DMF (3 drops) was added to a solution of 3,3,3-trifluoro-2,2-dimethyl-propionic acid [889940-13-0] (179 mmol) in CH2Cl2 (160 mL) at rt. Slowly added a solution of oxalyl chloride (197 mmol) in CH2Cl2 (20 mL). After stirring for 14 h, the reaction mixture was carefully evaporated (500 mbar, 33° C.) to afford the title compound (volatile!) as a yellow solution.

reactant | 3,3,3-trifluoro-2,2-dimethyl-propionic acid | 179 mmol | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | oxalyl chloride | 197 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 160 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,3,3-Trifluoro-2,2-dimethyl-propionyl chloride | FC(C(C(=O)Cl)(C)C)(F)F | C5H6ClF3O
